US05439917
A solution of 130 mg (0.76 mmol) of 3-cyanomethyl-2-methyl-pyrrolo[2,3-b]pyridine and 150 mg (0.81 mmol) of 2-bromoethyl-benzene in 2 ml of acetonitrile was refluxed for 40 h. The solvent was evaporated and the crude product was chromatographed on silica gel with ethyl acetate: methanol: water 100:12:4. Recrystallization from a small amount of ether: petroleumether 1:1 gave 53 mg (25%) of 3-cyanomethyl-2-methyl-7-(2-phenylethyl)pyrrolo[2,3-b]pyridine.

reactant | 3-cyanomethyl-2-methyl-pyrrolo[2,3-b]pyridine | 0.76 mmol, 130 mg | C(#N)CC1=C(NC2=NC=CC=C21)C | C10H9N3
reactant | 2-bromoethyl-benzene | 0.81 mmol, 150 mg | BrCCC1=CC=CC=C1 | C8H9Br
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 3-cyanomethyl-2-methyl-7-(2-phenylethyl)pyrrolo[2,3-b]pyridine | 53 mg, 25% | C(#N)CC1=C(N=C2N(C=CC=C21)CCC2=CC=CC=C2)C | C18H17N3
